US08076325B2
Step 1: Ethyl(5,6-Dihydrocyclobuta[4,5]benzo[1,2-d][1,3]dioxol-5-yl-methyl)carbamate
7.9 g (44.6 mmoles) of (5,6-dihydrocyclobuta[4,5]benzo[1,2-d][1,3]dioxol-5-ylmethyl)amine are dissolved in 80 mL of dichloromethane. 80 mL of water and 6 mL (1.6 equivalents) of (12N) aqueous sodium hydroxide solution are added. Over 15 minutes there are added 3.95 mL (1.1 equivalents) of ethyl chloroformate and stirring is carried out at 25° C. for 2 hours. The mixture is separated and the organic phases is washed with saturated aqueous NaHCO3 solution. Drying over MgSO4, filtration and evaporation to dryness are carried out. The expected product is obtained in the form of a brown solid.

reactant | (5,6-dihydrocyclobuta[4,5]benzo[1,2-d][1,3]dioxol-5-ylmethyl)amine | 44.6 mmoles, 7.9 g | O1COC2=C1C=C1C(=C2)C(C1)CN | C10H11NO2
reactant | water | 80 mL | O | H2O
reactant | sodium hydroxide | 12N, 6 mL, 1.6 equivalents | [OH-].[Na+]
reactant | ethyl chloroformate | 3.95 mL, 1.1 equivalents | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | Ethyl(5,6-Dihydrocyclobuta[4,5]benzo[1,2-d][1,3]dioxol-5-yl-methyl)carbamate | C(C)OC(NCC1CC=2C1=CC1=C(OCO1)C2)=O | C13H15NO4
